US08071586B2
B) (S)-2-[(R)-4-(3-Chloro-phenylcarbamoyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester
In analogy to the procedure described in example 58F, (S)-4-((S)-4-hydroxy-6-aza-spiro[2. 5]oct-6-yl)-2-((R)-3-methyl-7-oxo-[1,4]diazepan-1-yl)-butyric acid methyl ester dihydrochloride and 3-chlorophenyl isocyanate gave the title compound in 59% yield as off-white solid. MS: 506.2 (MH+, 1Cl).

reactant | (S)-4-((S)-4-hydroxy-6-aza-spiro[2. 5]oct-6-yl)-2-((R)-3-methyl-7-oxo-[1,4]diazepan-1-yl)-butyric acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1C[C@H](NCCC1=O)C)=O
reactant | 3-chlorophenyl isocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
product | (S)-2-[(R)-4-(3-Chloro-phenylcarbamoyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester | 59% yield | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1C[C@H](N(CCC1=O)C(NC1=CC(=CC=C1)Cl)=O)C)=O | C25H35ClN4O5
